US05234566
(i) 11-Chloro-3,6,9-trioxaundecan-1-ol
A solution of 1,8-dichloro-3,6-dioxaoctane (40 g) and potassium hydroxide (11.8 g) in ethylene glycol (100 ml) was stirred at 100° C. for 18 h. The mixture was then cooled, filtered and the residue washed with acetone (2×35 ml). The combined filtrate was then distilled to yield the product as a clear oil (13.5 g, 30%), b.p. 120°-122° C./0.2 mm Hg; I.r. (liquid film) 3430 cm-1.

reactant | 1,8-dichloro-3,6-dioxaoctane | 40 g | ClCCOCCOCCCl | C6H12Cl2O2
reactant | potassium hydroxide | 11.8 g | [OH-].[K+]
reactant | ethylene glycol | 100 ml | C(CO)O | C2H6O2
product | 11-Chloro-3,6,9-trioxaundecan-1-ol | 13.5 g, 30% | ClCCOCCOCCOCCO | C8H17ClO4
